US06204221B1
3-(5-Chloro-6-methoxy-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole
1.0 g of 3-(5,6-dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1 H]-pyrazole (Example H20) is initially introduced into 5 ml of dry dimethoxyethane. After the solution has been cooled to 0° C., 0.61 ml of a 5.4 molar solution of sodium methylate in methanol is added dropwise and the mixture is subsequently stirred at 25° C. for 2 days. The reaction mixture is taken up in diethyl ether and washed successively with 0.5 N hydrochloric acid, water and brine. After drying over sodium sulfate, the mixture is filtered and the filtrate is concentrated to dryness in vacuo. 0.94 g of the desired title compound is obtained as a white solid.

reactant | 3-(5,6-dichloro-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1 H]-pyrazole | 1.0 g | ClC=1C=CC(=NC1Cl)C1=NN(C(=C1Cl)C(F)(F)F)C | C10H5Cl3F3N3
reactant | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(5-Chloro-6-methoxy-2-pyridyl)-4-chloro-5-trifluoromethyl-1-methyl-[1H]-pyrazole | 0.94 g | ClC=1C=CC(=NC1OC)C1=NN(C(=C1Cl)C(F)(F)F)C | C11H8Cl2F3N3O
